* Schematics Netlist *



V_V1         $N_0001 0 0V
M_M1         Vo $N_0001 0 0 MbreakN           
V_V2         $N_0002 0 5V
R_R1         Vo $N_0002  300k  
