* Schematics Netlist *

.EXTERNAL INPUT C
.EXTERNAL INPUT B
.EXTERNAL OUTPUT F
.EXTERNAL INPUT A


** AutoGenerated Stimuli from Hierarchical ports **
U_AUTO_STM_3	STIM( 1, 0 ) $G_DPWR $G_DGND B IO_STM STIMULUS=B
U_AUTO_STM_4	STIM( 1, 0 ) $G_DPWR $G_DGND C IO_STM STIMULUS=C
U_AUTO_STM_5	STIM( 1, 0 ) $G_DPWR $G_DGND A IO_STM STIMULUS=A


M_M15         $N_0001 B F Vo MbreakP-X1  
+ L=1u  
+ W=1u         
M_M14         Vo C $N_0001 Vo MbreakP-X1  
+ L=1u  
+ W=1u         
M_M16         Vo A F Vo MbreakP-X1  
+ L=1u  
+ W=1u         
M_M18         $N_0002 C 0 0 MbreakN-X4  
+ L=1u  
+ W=1u         
M_M13         F A $N_0002 0 MbreakN-X4  
+ L=1u  
+ W=1u         
M_M17         $N_0002 B 0 0 MbreakN-X4  
+ L=1u  
+ W=1u         
V_VDD         Vo 0 5V
