* Schematics Netlist *



V_VDD         $N_0001 0 5V
M_M2         $N_0001 $N_0002 Vo $N_0001 MbreakP-X  
+ L=1u  
+ W=1u         
M_M1         Vo $N_0002 0 0 MbreakN-X  
+ L=1u  
+ W=1u         
V_V3         $N_0002 0  
+PULSE 0 5 10n 0.01n 0.01n 40n 100n
